US06350771B1
To a stirred suspension of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile (5.0 g) in anhydrous methanol was added a 25% w/w solution of sodium methoxide (8.95 ml) in methanol, at 20 ° C. The mixture was stirred for 16-hours, cooled to 0° C. and diluted with ice-cold anhydrous methanol. Carbon dioxide was passed into the solution for 15-minutes until a pH of 8 was attained. The precipitate was filtered off, washed (ethyl acetate) and evaporated to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidic acid methyl ester (3.65 g), 1H NMR (CDCl3) in ppm: 8.34(s,1H), 7.79(s,2H), 5.11(brs,2H), 3.93(s,3H), 2.94(s,3H). By proceeding in a similar manner the following compound was prepared:5-Amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-trifluoromethylsulfinyl-1H-pyrazole-3-carboximidic acid methyl ester, m.p. 179-180 ° C.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 5.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
reactant | sodium methoxide | 8.95 ml | C[O-].[Na+]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | methanol | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboximidic acid methyl ester | 3.65 g | COC(=N)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H11Cl2F3N4O2S
